US04882261
Synthesis of N-Phenylamino-phthalimide
Phthalic acid (1.66 gram, 0.01 mole), phenylhydrazine (1.08 gram, 0.01 mole), and zinc chloride (3.0 gram, 0.022 mole) were added into 50 ml. of dioxane. After refluxing for 2 hours, the mixture was cooled to room temperature. The solvent was then removed and the residue was poured into ice-water which precipitated a yellow solid. After recrystallization from methanol, the pure compound was obtained in 30% yield as yellow needles (0.7 grams; m.p. 180° C.).

reactant | Phthalic acid | 0.01 mole, 1.66 gram | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | phenylhydrazine | 0.01 mole, 1.08 gram | C1(=CC=CC=C1)NN | C6H8N2
catalyst | zinc chloride | 0.022 mole, 3.0 gram | [Cl-].[Zn+2].[Cl-]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-Phenylamino-phthalimide | 30% yield | C1(=CC=CC=C1)NN1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
